US06576644B2
6-Bromo-2-(2-pyridinyl)quinoline-4-carboxylic Acid
To a suspension of 5-bromo isatin (5 g, 20.5 mmol) and 2-acetylpyridine (2.5 g, 20.5 mmol) in aqueous KOH (1.2 g, 33%) was added EtOH until a solution formed. The mixture was refluxed over night. The reaction mixture was neutralized with HOAc (50%) and filtered. The solid was resuspended in EtOH and filtered to give the title compound (5.5 g). LC: 1.66 and MH+: 329.

reactant | 5-bromo isatin | 20.5 mmol, 5 g | BrC=1C=C2C(C(NC2=CC1)=O)=O | C8H4BrNO2
reactant | 2-acetylpyridine | 20.5 mmol, 2.5 g | C(C)(=O)C1=NC=CC=C1 | C7H7NO
reactant | EtOH | CCO | C2H6O
reactant | HOAc | CC(=O)O | C2H4O2
solvent | KOH | 1.2 g | [OH-].[K+]
product | 6-Bromo-2-(2-pyridinyl)quinoline-4-carboxylic Acid | 5.5 g | BrC=1C=C2C(=CC(=NC2=CC1)C1=NC=CC=C1)C(=O)O | C15H9BrN2O2
